US07435733B2
To prepare this compound, DMAP (6 mg, 0.043 mmol) and methyl chloroformate (27 mg, 0.29 mmol) were added to a solution of 8-amino-5-bromo-1,2,3,4-tetrahydronaphthalen-1-ol (70 mg, 0.29 mol) in 1.5 mL pyridine at −10° C. The reaction was stirred for 0.5 hour, then extracted with ethyl acetate and water. The organic layer was washed sequentially with 2% aqueous HCl solution, water, and brine an then was dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was dissolved in 1.5 ml dry DMF and then potassium carbonate (80 mg, 0.58 mmol) was added. That suspension was heated at 100° C. for 2 hours, and was extracted with EtOAc and water. The organic layer from that extraction was washed sequentially with 2% aqueous HCl, water, and brine and was then dried over sodium sulfate, filtered, and concentrated under reduced pressure to afford 6-bromo-7,8,9,9a-tetrahydro-3H-naptho[1,8-de][1,3]oxazine-2-one. 1H NMR (500 MHz, CDCl3) δ 8.55 (broad s, 1H), 7.41 (d, J=8.2, 1H), 6.60 (d, J=8.4, 1H), 5.3-5.4 (m, 1H), 2.90 (dd, J=17.8, 5.0, 1H), 2.55-2.65 (m, 1H), 2.40-2.50 (m, 1H), 2.15-2.25 (m, 1H), 1.70-1.90 (m, 2H).

reactant | methyl chloroformate | 0.29 mmol, 27 mg | ClC(=O)OC | C2H3ClO2
reactant | 8-amino-5-bromo-1,2,3,4-tetrahydronaphthalen-1-ol | 0.29 mol, 70 mg | NC=1C=CC(=C2CCCC(C12)O)Br | C10H12BrNO
reactant | potassium carbonate | 0.58 mmol, 80 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | DMAP | 0.043 mmol, 6 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | 6-bromo-7,8,9,9a-tetrahydro-3H-naptho[1,8-de][1,3]oxazine-2-one | BrC=1C=CC=2NC(OC3C2C1CCC3)=O | C11H10BrNO2
